US07544688B2
F: 9-Cyclopentyl-6-{2-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenylamino}-purine-2-carbonitrile
(2-Chloro-9-cyclopentyl-purin-6-yl)-{2-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenyl}-amine (0.1 mmol), sodium cyanide (50 mg), potassium iodide (5 mg) are suspended in DMA (2 ml) and heated up to 160° C. and the mixture is stirred at this temperature for 24 hours. The mixture is diluted with water and extracted 3 times with ethyl acetate. The combined organic phases are washed with brine and the extract is dried over sodium sulfate and evaporated. The residue is dissolved in diethylether, filtered over powdered charcoal and cooled to 4° C. The solid material formed is filtered of and dried (vacuum). A white powder with mp. 136-138° C. is obtained.

reactant | (2-Chloro-9-cyclopentyl-purin-6-yl)-{2-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenyl}-amine | 0.1 mmol | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NC1=C(C=CC=C1)OCCCN1CCN(CC1)C | C24H32ClN7O
reactant | sodium cyanide | 50 mg | [C-]#N.[Na+]
reactant | potassium iodide | 5 mg | [I-].[K+]
solvent | DMA | 2 ml | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 9-Cyclopentyl-6-{2-[3-(4-methyl-piperazin-1-yl)-propoxy]-phenylamino}-purine-2-carbonitrile | C1(CCCC1)N1C2=NC(=NC(=C2N=C1)NC1=C(C=CC=C1)OCCCN1CCN(CC1)C)C#N | C25H32N8O
